US07727988B2
5-(2-fluoro-5-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E61)
5-(2-fluoro-5-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane (1 ml) and treated with 4N HCl in dioxane solution (2 eq), to give 59 mg of the title compound.

reactant | 5-(2-fluoro-5-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | FC1=NC=C(C=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)C | C25H24F4N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2-fluoro-5-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 59 mg | Cl.Cl.FC1=NC=C(C=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)C | InChI=1S/C25H24F4N4O2.2ClH/c1-15-9-19(21(26)30-11-15)20-13-33(23(35)31-22(20)34)8-2-7-32-12-18-10-24(18,14-32)16-3-5-17(6-4-16)25(27,28)29;;/h3-6,9,11,13,18H,2,7-8,10,12,14H2,1H3,(H,31,34,35);2*1H/t18-,24+;;/m0../s1
